US06846819B1
e) (E)-3-(3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazin-7-yl)acrylic acid
(E)-3-[4(tert-Butoxycarbonyl)-3,4-dihydro-2H-pyrido[3,2-b]-1,4-oxazin-7-yl]acrylic acid (1.17 g, 2.95 mmole) was dissolved in 4 N HCl in dioxane (15 mL). After 72 hr the mixture was concentrated. The residue was taken up in 1:1 MeOH/H2O (20 mL). 1.0 N LiOH (15 mL, 15 mmole) was added and the mixture was heated to reflux. After 18 hr the mixture was cooled to RT and concentrated to approximately ⅓ volume. The mixture was adjusted to pH 6 using 10% HCl. The solid was collected by filtration, washed with H2O and dried in vacuo to give the title compound (315 mg, 52% over 2 steps): MS (ES) m/e 207 (M+H)+.

reactant | (E)-3-[4(tert-Butoxycarbonyl)-3,4-dihydro-2H-pyrido[3,2-b]-1,4-oxazin-7-yl]acrylic acid | 2.95 mmole, 1.17 g | C(C)(C)(C)OC(=O)N1C2=C(OCC1)C=C(C=N2)/C=C/C(=O)O | C15H18N2O5
reactant | LiOH | 15 mmole, 1.0 N, 15 mL | [Li+].[OH-]
solvent | HCl | 4 N | Cl | ClH
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | (E)-3-(3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazin-7-yl)acrylic acid | 315 mg, 52% | O1C2=C(NCC1)N=CC(=C2)/C=C/C(=O)O | C10H10N2O3
